US08486941B2
A 50 mL two necked round bottom flask was fitted with a magnetic stirrer bar and a dropping funnel. A suspension of NaBH4 in tetrahydrofuran (100 mg, 2.4 mmol/10 mL) was added, followed by 5-amino-2-morpholinobenzenecarboxylic acid (222 mg, 1.0 mmol) in one portion. A reflux condenser was fitted and the reaction mixture was cooled to 0° C. under nitrogen atmosphere. A solution of iodine in tetrahydrofuran (250 mg, 1.0 mmol/15 mL) was added dropwise to the reaction mixture. After iodine addition was completed and gas evolution had ceased, the reaction mixture was heated at reflux for 6 hours and left stirring at room temperature overnight. Methanol was added slowly until the mixture became clear. The resulting solution stirred at room temperature for 30 minutes then solvent was removed under reduced pressure. The residue was dissolved in 20% KOH (30 mL), stirred for 4 hours and extracted with dichloromethane (3×30 mL). The combined organic extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated to give 5-amino-2-morpholinobenzyl alcohol as an off-white solid (150 mg, 72% yield). 1H NMR (300 MHz, CDCl3) δ 7.05 (d, J=8.7 Hz, 1H), 6.59 (dd, J=8.4, 2.7 Hz, 1H), 6.49 (d, J=2.7 Hz, 1H), 5.51 (br s, 1H), 4.71 (s, 2H), 3.84 (t, J=5.1 Hz, 4H), 3.60 (br s, 2H), 2.91 (t, J=5.1 Hz, 4H). LC-ESI-MS (method B): rt 2.31 min.; m/z 209.2 [M+H]+.

reactant | NaBH4 | [BH4-].[Na+]
reactant | tetrahydrofuran | 2.4 mmol, 10 mL, 100 mg | O1CCCC1 | C4H8O
reactant | 5-amino-2-morpholinobenzenecarboxylic acid | 1.0 mmol, 222 mg | NC=1C=CC(=C(C1)C(=O)O)N1CCOCC1 | C11H14N2O3
reactant | iodine | II | I2
reactant | tetrahydrofuran | 1.0 mmol, 15 mL, 250 mg | O1CCCC1 | C4H8O
solvent | Methanol | CO | CH4O
product | 5-amino-2-morpholinobenzyl alcohol | 150 mg, 72% yield | NC=1C=CC(=C(CO)C1)N1CCOCC1 | C11H16N2O2
